Parameter precedence oracle: header dependency sees instance override
IIN 0 n DC 1
X1 n 0 cell a=4
.subckt cell p n params: a=2 b={a+1}
RPATH p n {b}
.ends cell
.op
.print op v(n)
.end
