.model nch nmos level=1
.subckt diff_core inp inn out vdd vss
M1 nleft inp tail vss nch
M2 out inn tail vss nch
R1 vdd nleft 5k
R2 vdd out 5k
I1 tail vss 100u
.ends diff_core
